US07223771B2
L. Ethyl 2,3-dimethyl-8-hydroxy-7-(3′-hydroxy-3′-phenylpropyl)-imidazo[1,2-a]pyridine-6-carboxylate
A solution of ethyl 2,3-dimethyl-8-hydroxy-7-(3′-oxo-3′-phenylpropyl)-imidazo[1,2-a]pyridine-6-carboxylate (714 mg, 1.95 mmol) in ethanol (20 ml) is treated with sodium borohydride (74 mg, 1.95 mmol). The reaction mixture is stirred for 2.75 hours at ambient temperature. At 0° C. saturated ammonium chloride solution (20 ml) is added. The solution is evaporated until most of the ethanol has been removed and is extracted with dichloromethane (3×20 ml). The combined organic phases are dried over sodium sulfate and are evaporated to dryness. A brownish foam (692 mg) is obtained which is purified by flash chromatography [silica gel, solvent system: dichloromethane/methanol=15:1 (v/v)]. The title compound (540 mg, 75%) is isolated as an almost colourless foam, 90% purity according to 1H NMR analysis.—1H NMR (CDCl3, 200 MHz): □=1.40 (t, 3 H), 2.13 (mc, 2 H), 2.40 (s, 3 H), 2.52 (s, 3 H), 3.26 (mc, 1 H), 3.50 (mc, 1H), 4.39 (q, 2 H), 4.61 (dd, 1 H), 7.24 (mc, 5 H), 7.95 (s, 1 H).

reactant | ethyl 2,3-dimethyl-8-hydroxy-7-(3′-oxo-3′-phenylpropyl)-imidazo[1,2-a]pyridine-6-carboxylate | 1.95 mmol, 714 mg | CC=1N=C2N(C=C(C(=C2O)CCC(C2=CC=CC=C2)=O)C(=O)OCC)C1C | C21H22N2O4
reactant | sodium borohydride | 1.95 mmol, 74 mg | [BH4-].[Na+]
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2,3-dimethyl-8-hydroxy-7-(3′-hydroxy-3′-phenylpropyl)-imidazo[1,2-a]pyridine-6-carboxylate | 692 mg | CC=1N=C2N(C=C(C(=C2O)CCC(C2=CC=CC=C2)O)C(=O)OCC)C1C | C21H24N2O4
